US07872009B2
Methyl 6-oxo-6H-pyran-3-carboxylate (Aldrich, 4.00 g, 26.0 mmol) was placed in a 500 mL rbf before 1,4-dioxane (40.0 mL) was added via syringe. After 5 min, cyclopentyl amine (13.0 mL) was added via syringe and the reaction was allowed to stir for 14 h before the volatiles were removed by rotary evaporation. The solid residue was dissolved in diethyl ether (100 mL) and then washed with HCl (10%, 1×100 mL), NaHCO3 (sat, 1×100 mL), brine (sat 100 mL), and dried with magnesium sulfate. The dried solution was filtered and concentrated to provide 4.95 g of crude oil which was purified by a 120 g normal phase Isco column chromatography (50% EtOAc-100% EtOAc in hexanes) to give 2.38 g of methyl 1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate. MS m/z: 222 (M+1). This methyl ester was dissolved in THF (30 mL) and water was added (10 mL) before the addition of LiOH monohydrate (1.20 g) and then reaction was placed in a 70° C. oil bath for 2 h. The reaction was cooled and the bulk of the THF was removed by rotary evaporation. The reaction was then poured into a separatory funnel and HCl (10%, 75 mL) was added before extracting with diethyl ether (3×100 mL). The combined organics were washed with brine (sat, 200 mL) and dried with magnesium sulfate. The solution was filtered and concentrated to provide an off white solid (920 mg). MS m/z: 208 (M+1).

reactant | Methyl 6-oxo-6H-pyran-3-carboxylate | 26.0 mmol, 4.00 g | O=C1C=CC(=CO1)C(=O)OC | C7H6O4
reactant | cyclopentyl amine | 13.0 mL | C1(CCCC1)N | C5H11N
solvent | 1,4-dioxane | 40.0 mL | O1CCOCC1 | C4H8O2
product | methyl 1-cyclopentyl-6-oxo-1,6-dihydropyridine-3-carboxylate | 2.38 g | C1(CCCC1)N1C=C(C=CC1=O)C(=O)OC | C12H15NO3
